US07105544B2
N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLBUTANAMIDE
Example 12 was prepared from 2,2-diphenylbutanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.45 (s, 1H), 7.44–7.39 (m, 2H), 7.37–7.28 (m, 8H), 7.27–7.20 (m, 3H), 6.89 (d, 1H, J=7.4 Hz), 6.43 (t, 1H, J=4.5 Hz), 3.35–3.27 (m, 2H), 2.90–2.82 (m, 2H), 2.51 (septet, 1H, J=6.8 Hz), 2.49–2.35 (m, 4H), 2.24 (t, 2H, J=6.3 Hz), 1.89 (t, 2H, J=10.2 Hz), 1.75–1.68 (m, 2H), 1.66–1.58 (m, 2H), 1.57–1.45 (m, 2H), 1.24 (d, 6H, J=6.7 Hz), 1.27–1.23 (m, 2H); ESMS m/e: 526.3 (M+H)+.

reactant | 2,2-diphenylbutanoic acid | C1(=CC=CC=C1)C(C(=O)O)(CC)C1=CC=CC=C1 | C16H16O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLBUTANAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(CC)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H43N3O2
